US09238639B2
3-(Carboxymethoxy)-6-((2,4-dichlorobenzyl)oxy)-1-benzothiophene-2-carboxylic acid
A mixture of ethyl 3-(2-tert-butoxy-2-oxoethoxy)-6-((2,4-dichlorobenzyl)oxy)-1-benzothiophene-2-carboxylate (1.1 g), 1N NaOH (5 mL), EtOH (5 mL) and THF (10 mL) was stirred at 50° C. for 24 h. Water and 1N HCl (5 mL) were added to the mixture and the mixture was extracted with THF-EtOAc. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was washed with hexane to give the title compound (0.850 g). The obtained crystals were recrystallized from acetone-water.

reactant | ethyl 3-(2-tert-butoxy-2-oxoethoxy)-6-((2,4-dichlorobenzyl)oxy)-1-benzothiophene-2-carboxylate | 1.1 g | C(C)(C)(C)OC(COC1=C(SC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)C(=O)OCC)=O | C24H24Cl2O6S
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
reactant | EtOH | 5 mL | CCO | C2H6O
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(Carboxymethoxy)-6-((2,4-dichlorobenzyl)oxy)-1-benzothiophene-2-carboxylic acid | 0.850 g | C(=O)(O)COC1=C(SC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)C(=O)O | C18H12Cl2O6S
